US07687491B2
(30b) Methyl 1-({6-ethyl-5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 23 (23g) using {6-ethyl-5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol (0.13 g, 0.38 mmol) that was obtained in Example 30 (30a), carbon tetrabromide (0.25 g, 0.75 mmol), triphenylphosphine (0.20 g, 0.75 mmol), methyl 3-azetidinecarboxylate hydrochloride (78 mg, 0.51 mmol), and N,N-diisopropylethylamine (0.15 ml, 0.86 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (3:7 to 7:3) as the eluent to afford the title compound (0.11 g) in a yield of 69% as a pale yellow oily product.

reactant | {6-ethyl-5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol | 0.38 mmol, 0.13 g | C(C)C1=C(C=CC(=N1)CO)C1=NOC(=N1)C1=CC(=C(C=C1)CC(C)C)F | C20H22FN3O2
reactant | carbon tetrabromide | 0.75 mmol, 0.25 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.75 mmol, 0.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.51 mmol, 78 mg | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 0.86 mmol, 0.15 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({6-ethyl-5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate | C(C)C1=C(C=CC(=N1)CN1CC(C1)C(=O)OC)C1=NOC(=N1)C1=CC(=C(C=C1)CC(C)C)F | C25H29FN4O3
